US09388140B2
To a stirred solution of 4-{6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N-cyclopropyl-2-methylbenzamide (30.8 mg, 0.05 mmol) in NMP (2 mL) was subsequently added 24.58 mg pyridin-4-ylboronic acid (0.2 mmol, 4 eq), 12.3 mg Pd(dppf)Cl2 (0.015 mmol, 0.3 eq) and aqueous potassium carbonate solution (1M, 150 μL) in one portion at rt. After heating for 40 min at 140° C. in a microwave oven, the mixture was filtered an subjected to preparative HPLC to yield 6.77 mg (27.95%) N-cyclopropyl-2-methyl-4-{6-(pyridin-4-yl)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}benzamide.

reactant | 4-{6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N-cyclopropyl-2-methylbenzamide | 0.05 mmol, 30.8 mg | BrC=1C=C(C2=C(N(C=N2)C2=CC(=C(C(=O)NC3CC3)C=C2)C)C1)NCCC(F)(F)F | C21H20BrF3N4O
reactant | pyridin-4-ylboronic acid | 0.2 mmol, 24.58 mg, 4 eq | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 1M, 150 μL | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 12.3 mg, 0.3 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-cyclopropyl-2-methyl-4-{6-(pyridin-4-yl)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}benzamide | 6.77 mg, 27.95% | C1(CC1)NC(C1=C(C=C(C=C1)N1C=NC2=C1C=C(C=C2NCCC(F)(F)F)C2=CC=NC=C2)C)=O | C26H24F3N5O
